US08378092B2
21.1) 3-Bromo-1-methyl-1H-pyridin-2-one (Intermediate 63), large scale
To a solution of 3-bromo-pyridin-2-ol (10 g, 57.47 mmol) in DMF (100 ml) at 0° C. was added NaH (60%, 2.52 g, 63.22 mmol) portionwise under argon. After 30 min methyl iodide (4.29 ml, 68.97 mmol) was added dropwise and the reaction mixture was stirred for 15 h at RT. The mixture was diluted with ethyl acetate (100 ml), washed with water (2×200 ml) and brine (100 ml), dried over Na2SO4, and evaporated under reduced pressure. The crude product was used without further purification in step 21.5).

reactant | 3-bromo-pyridin-2-ol | 57.47 mmol, 10 g | BrC=1C(=NC=CC1)O | C5H4BrNO
reactant | NaH | 63.22 mmol, 2.52 g | [H-].[Na+]
reactant | methyl iodide | 68.97 mmol, 4.29 ml | CI | CH3I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-1-methyl-1H-pyridin-2-one | BrC=1C(N(C=CC1)C)=O | C6H6BrNO
